US05157116
Methyl 5-azido-2,3,6-tri-O-benzyl-5-deoxy-D-glucofuranoside (10.8 g, 22.2 mmol) was dissolved at room temperature in tetrahydrofuran (20 mL). The solution was cooled at -10° C. and trifluoroacetic acid (120 mL) was added dropwise followed by addition of water (20 mL). The mixture was stirred at 0° C. during 24 h. The mixture was evaporated under reduced pressure without heating. The residue was taken with ether and washed with water. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. Flash chromatography on silica gel and elution with a 20:80 mixture of ethyl acetate and hexane afforded 5-azido-2,3,6-tri-O-benzyl-5-deoxy-D-glucofuranose as a colorless oil (9.63 g, 90%).

reactant | Methyl 5-azido-2,3,6-tri-O-benzyl-5-deoxy-D-glucofuranoside | 22.2 mmol, 10.8 g | N(=[N+]=[N-])[C@@H]([C@@H]1[C@@H]([C@H](C(OC)O1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C28H31N3O5
reactant | trifluoroacetic acid | 120 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 5-azido-2,3,6-tri-O-benzyl-5-deoxy-D-glucofuranose | 9.63 g, 90% | N(=[N+]=[N-])[C@@H]([C@@H]1[C@@H]([C@H](C(O)O1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C27H29N3O5
